US04242350
A mixture of 3-[-2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole (0.2 g.) and 1 N hydrochloric acid (50 ml.) was heated under reflux for 30 minutes, cooled, neutralised with 1 N sodium hydroxide and extracted with ethyl acetate (6×25 ml.). The combined extracts were dried (MgSO4) and evaporated in vacuo to a white solid which was dissolved in ethanol (3 ml.) and added to a solution of oxalic acid (0.071 g.) in ethanol (2 ml.). The precipitated solid was filtered off, washed with ethanol and dried at 50°/0.1 m.m. to give 3-8 2-(2-carbamoyl-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole. 1.75 oxalate. Found: C, 31.0; H, 4.3; N, 25.7; S, 13.5; C9H17N9OS2. 1.75C2H2O4 requires C, 30.7; H, 4.2; N, 25.8; S, 13.1%.

reactant | 3-[-2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | 0.2 g | C(#N)N=C(NCCSCC1=NSC(=N1)NC(=N)N)NC | C9H15N9S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 50 ml | Cl | ClH
product | 5-guanidino-1,2,4-thiadiazole | N(C(=N)N)C1=NC=NS1 | C3H5N5S
